US07566803B2
E. 1-[4-(1-Ethyl-1-{4-[(2-methanesulfonylethylamino)methyl]-3-methylphenyl}propyl)-2-methylphenoxy]-3,3-dimethylbutan-2-ol
To a mixture of [4-(1-{4-[2-(t-butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzyl]-(2-methanesulfonylethyl)amine (1.47 g, 2.43 mmol) in THF (30 mL) is added 1M TBAF (2.7 mL, 2.7 mmol), and refluxed for 2 h. After cooling to RT, the mixture is diluted with H2O (20 mL) and extracted with EtOAc (3×30 mL). The combined organic layers are MgSO4 dried, concentrated, and chromatographed (80% EtOAc/Hex) to give the title compound (0.97 g, 1.93 mmol, 79%).

reactant | [4-(1-{4-[2-(t-butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzyl]-(2-methanesulfonylethyl)amine | 2.43 mmol, 1.47 g | [Si](C)(C)(C(C)(C)C)OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(CNCCS(=O)(=O)C)C=C1)C)C)C(C)(C)C | C35H59NO4SSi
reactant | TBAF | 2.7 mmol, 1M, 2.7 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
product | 1-[4-(1-Ethyl-1-{4-[(2-methanesulfonylethylamino)methyl]-3-methylphenyl}propyl)-2-methylphenoxy]-3,3-dimethylbutan-2-ol | 1.93 mmol, 0.97 g, 79% | C(C)C(CC)(C1=CC(=C(C=C1)CNCCS(=O)(=O)C)C)C1=CC(=C(OCC(C(C)(C)C)O)C=C1)C | C29H45NO4S
